US08242104B2
A mixture of 0.856 g (4.00 mmol) of 2,6-dichloro-3-(1H-imidazol-2-yl)pyridine, 704 mg (8.00 mmol) of ethylene carbonate and 2930 mg (9.00 mmol) of cesium carbonate was heated in 25.0 ml of N,N-dimethylformamide for 13 hours at 90° C. The mixture was filtered, the filtrate concentrated in high vacuum, the residue purified on 10 g of silica column eluting with 80% of ethyl acetate in heptane to give 9-chloro-5,6-dihydroimidazo[1,2-d]pyrido[3,2-f][1,4]oxazepine. Yield 0.359 g (41%). M/z 222.0, calc. 221.04. 1H NMR (500 MHz, CDCl3) δ 8.84 (d, J=8.2, 1H), 7.18 (s, 1H), 7.15 (d, J=8.2, 1H), 7.02 (s, 1H), 4.63-4.57 (m, 2H), 4.47-4.41 (m, 2H)

reactant | 2,6-dichloro-3-(1H-imidazol-2-yl)pyridine | 4.00 mmol, 0.856 g | ClC1=NC(=CC=C1C=1NC=CN1)Cl | C8H5Cl2N3
reactant | ethylene carbonate | 8.00 mmol, 704 mg | C1(OCCO1)=O | C3H4O3
reactant | cesium carbonate | 9.00 mmol, 2930 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 25.0 ml | CN(C=O)C | C3H7NO
product | 9-chloro-5,6-dihydroimidazo[1,2-d]pyrido[3,2-f][1,4]oxazepine | ClC=1C=CC=2C=3N(CCOC2N1)C=CN3 | C10H8ClN3O
